US05789154
Preparation of dye-encapsulated Alachlor-tagged liposomes.
Liposomes were formed by the reversed-phase evaporation method, as described in Szoka, et al., Biochim. Biophys. Acta, 601 (1980) 559, and O'Connell, et al., Anal. Chem., 31 (1985) 142, the disclosures of which are hereby incorporated by reference, from a mixture of DPPC, cholesterol, DPPG, and Alachlor-DPPE conjugate in a molar ration of 5:5:0.5:0.01. Forty-three μmol of this mixture were dissolved in 4.2 ml of a solvent mixture containing chloroform-isopropyl ether-methanol (6:6:1,v/v). This solution was warmed to 45° C. and 0.7 ml of the dye solution was added with swirling. This mixture was sonicated for 5 minutes under a low flow of nitrogen. The organic phase was removed under vacuum on a rotary evaporator at 40° until all frothing had stopped. An additional 1.3 ml aliquot of the dye solution was added, and the liposomes were then sequentially extruded twice through each of two polycarbonate filters of decreasing pore sizes of 1.0 μm and 0.4 μm. The diameters of the liposome preparations were measured by laser scattering in a LA-900 particle size distribution analyzer (Horiba, Irvine, Calif.), using the manufacturers method, except that the usual sonication step was omitted to avoid lysis (rupture) of the liposomes. Finally, to remove any unencapsulated dye, the liposomes were gel filtered on a 1×14 cm Sephadex G-50 column and dialyzed overnight against TBS at 4° C. When stored at 4° C., there was no significant leakage of dye over a period of 9 months as described below.

reactant | DPPC | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCCCCCCCCCC | C40H80NO8P
reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | DPPG | CCCCCCCCCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCCCCCCCCC | C38H75O10P
reactant | Alachlor DPPE | CCC=1C=CC=C(C1N(COC)C(=O)CCl)CC.CCN(CC)CCOC=1C=CC(=CC1)CC=2C=CC=CC2.Cl
reactant | chloroform isopropyl ether methanol | C(Cl)(Cl)Cl.C(C)(C)OC(C)C.CO
product | Alachlor | CCC=1C=CC=C(C1N(COC)C(=O)CCl)CC | C14H20ClNO2
